USRE028939
A mixture of 10.0 g. of 4-chloro-2-iodobenzonitrile, 5 ml. of 95% hydrazine and 50 ml. of ethanol is allowed to stand for 24 hours at 50° C. Working up as in Example 1 gives 3-amino-6-chloroindazole.

reactant | 4-chloro-2-iodobenzonitrile | ClC1=CC(=C(C#N)C=C1)I | C7H3ClIN
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 3-amino-6-chloroindazole | NC1=NNC2=CC(=CC=C12)Cl | C7H6ClN3
